US08729102B2
A) 2-{(1S)-2-[(4-fluoro-5-methylisoxazol-3-yl)oxy]-1-methylethyl}-1H-isoindole-1,3(2H)-dione
Using 4-fluoro-5-methylisoxazol-3-ol and 2-[(1S)-2-hydroxy-1-methylethyl]-1H-isoindole-1,3(2H)-dione, and in the same manner as in Example 1, step B, the title compound was obtained.

reactant | 4-fluoro-5-methylisoxazol-3-ol | FC=1C(=NOC1C)O | C4H4FNO2
reactant | 2-[(1S)-2-hydroxy-1-methylethyl]-1H-isoindole-1,3(2H)-dione | OC[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C11H11NO3
product | 2-{(1S)-2-[(4-fluoro-5-methylisoxazol-3-yl)oxy]-1-methylethyl}-1H-isoindole-1,3(2H)-dione | FC=1C(=NOC1C)OC[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C15H13FN2O4
